US07332499B2
Triethylamine (7.026 g, 69.44 mmol) was added to a suspension of 1-(ethoxycarbonyl)cyclopropanaminium chloride (11.50 g, 69.44 mmol), pyrimidine-5-carboxylic acid (8.617 g, 69.44 mmol), EDC (13.312 g, 69.44 mmol), and HOAT (0.945 g, 69.44 mmol) in CH2Cl2 (125 mL) and allowed to stir for 16 hours. The reaction was adsorbed onto silica and purified by silica gel chromatography and eluted with ethyl acetate to yield ethyl 1-[(pyrimidin-5-ylcarbonyl)amino]-cyclopropanecarboxylate as a white solid. Low resolution mass spectrometry: (M+H+)=236.2.

reactant | Triethylamine | 69.44 mmol, 7.026 g | C(C)N(CC)CC | C6H15N
reactant | 1-(ethoxycarbonyl)cyclopropanaminium chloride | 69.44 mmol, 11.50 g | [Cl-].C(C)OC(=O)C1(CC1)[NH3+]
reactant | pyrimidine-5-carboxylic acid | 69.44 mmol, 8.617 g | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | EDC | 69.44 mmol, 13.312 g
reactant | HOAT | 69.44 mmol, 0.945 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | ethyl 1-[(pyrimidin-5-ylcarbonyl)amino]-cyclopropanecarboxylate | N1=CN=CC(=C1)C(=O)NC1(CC1)C(=O)OCC | C11H13N3O3
